US06486325B1
To hexamethylenetetramine (31.3 g, 223 mmol) was added trifluoroacetic acid (400 mL) and the mixture was heated to 70° C. for 90 minutes. A solution of 6-methoxy-1-methyl-1-trifluoromethyl-isochroman (50.0 g, 203 mmol) in trifluoroacetic acid (100 mL) was then added to the reaction mixture over 40 minutes. The solution was stirred for 3 hours and water was added (450 mL). The reaction mixture was stirred 16 hours, cooled to room temperature, and poured into methyl tert-butyl ether (500 mL). The organic layer was separated and washed with water (3×300 mL). The organic layer was poured into a round bottom flask and cooled to 0° C. 6N Sodium hydroxide was added in portions until the pH raised to 10 (˜500 mL). The organic layer was separated, washed with water (200 mL), dried over magnesium sulfate, filtered, and concentrated to afford 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-7-carbaldehyde as an oil (54.2 g of a 12:1 mixture of regioisomers, 97%). 1H NMR (400 MHz, CDCl3) δ1.71 (s, 3), 2.95 (dt, 2, J=2.6, 5.3), 3.90-3.97 (m, 1), 3.97 (s, 3), 4.19 (dt, 1, J=11.2, 5.6), 6.81 (d, 1, J=1.2), 10.4 (s, 1). 13C NMR (75 MHz, CDCl3) δ23.07, 29.98, 55.73, 60.83, 76.03 (q, J=27.4), 111.81, 112.50, 123.65, 125.32, 125.64 (q, J=287), 127.06, 160.89, 188.92. IR 1683, 1616, 1498, 1296, 1271, 1163, 1149, 1120, 1096, 874 cm−1. Analysis calculated for C13H13F3O3: C, 57.13; H, 5.05. Found: C, 56.94; H, 4.78.

reactant | hexamethylenetetramine | 223 mmol, 31.3 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman | 203 mmol, 50.0 g | COC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C12H13F3O2
reactant | water | O | H2O
reactant | methyl tert-butyl ether | 500 mL | C(C)(C)(C)OC | C5H12O
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic acid | 400 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-7-carbaldehyde | COC=1C=C2CCOC(C2=CC1C=O)(C(F)(F)F)C | C13H13F3O3
